US07544697B2
Phosphorus oxychloride (25 mL) was added to 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxamide (10.4 g, 30.0 mmol) and heated to 90° C. for 2.5 hours. The reaction mixture was then cooled to ambient temperature and poured into ice water cooled by an ice bath. Additional ice was added to the reaction mixture and the pH of the mixture was adjusted to 8-9 by addition of 30% saturated aqueous ammonium hydroxide. The mixture was extracted with ethyl acetate and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to afford 8.60 g of 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carbonitrile.

reactant | Phosphorus oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carboxamide | 30.0 mmol, 10.4 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C(=O)N | C17H23N3O3S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-(3-benzenesulfonylpropyl)-1-butyl-1H-pyrazole-3-carbonitrile | 8.60 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1=CC(=NN1CCCC)C#N | C17H21N3O2S
